US04262087
(a) Preparation of α-carbetoxyacetamide (Intermediate C)
200 g of ethyl β-ethoxy-β-iminopropionate hydrochloride were placed into a 1,000 ml flask and heated at 110° C. on an oil bath for 2 hours. The reaction mixture was redissolved with 500 ml of acetone, filtered by washing on the filter with other solvent. The filtrate was dried under vacuum and the obtained oily residue was grinded in 1,500 ml of ethyl ether. 108 g of a crystalline product were obtained. Upon TLC analysis, the product proved to be pure.

reactant | ethyl β-ethoxy-β-iminopropionate hydrochloride | 200 g | Cl.C(C)OC(CC(=O)OCC)=N
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | α-carbetoxyacetamide | 108 g | C(=O)(OCC)CC(=O)N | C5H9NO3
